US04738710
A mixture of ethyl 2-[4-(7-chloroquinolin-3-yloxy)phenoxy]propionate (500 mg), concentrated sulphuric acid (2 drops) and n-propanol (50 ml) was heated under reflux with stirring for 72 hours. The solvent was removed under reduced pressure and the residue was partitioned between dichloromethane and water. The organic layer was separated, dried over magnesium sulphate and evaporated to give n-propyl 2-[4-(7-chloroquinolin-3-yloxy)phenoxy]propionate as a pale brown oil which was characterised by its proton magnetic resonance spectrum (Table 3).

reactant | ethyl 2-[4-(7-chloroquinolin-3-yloxy)phenoxy]propionate | 500 mg | ClC1=CC=C2C=C(C=NC2=C1)OC1=CC=C(OC(C(=O)OCC)C)C=C1 | C20H18ClNO4
reactant | n-propanol | 50 ml | C(CC)O | C3H8O
catalyst | sulphuric acid | 2 drops | S(O)(O)(=O)=O | H2O4S
product | n-propyl 2-[4-(7-chloroquinolin-3-yloxy)phenoxy]propionate | ClC1=CC=C2C=C(C=NC2=C1)OC1=CC=C(OC(C(=O)OCCC)C)C=C1 | C21H20ClNO4
